US05356558
4-Bromo-2,5-difluoro-4'-propyltolane (5.0 g), 4-propylphenylacetylene (2.1 g), triphenylphosphine (0.06 g) and bis(triphenylphosphine)palladium(II) chloride (0.04 g) were dissolved in triethylamine (33 ml) under nitrogen atmosphere, and then copper(I) iodide (0.01 g) was added thereto, followed by refluxing for 5 hours. The reaction solution was poured into a mixture of concentrated hydrochloric acid (16 ml) and ice (30 g), and then extracted with chloroform. After washing the resultant with water twice, chloroform was distilled off therefrom. The residue was purified using silica gel-chloroform column chromatography, and then recrystallized from acetone to give 1,4-bis(4'-propylphenylethynyl)-2,5-difluorobenzene (2.6 g). The C-N point and the N-I point of the compound were 153.4° C. and 197.7° C., respectively.

reactant | 4-Bromo-2,5-difluoro-4'-propyltolane | 5.0 g | BrC1=CC(=C(C=C1F)C#CC1=CC=C(C=C1)CCC)F | C17H13BrF2
reactant | 4-propylphenylacetylene | 2.1 g | C(CC)C1=CC=C(C=C1)C#C | C11H12
reactant | hydrochloric acid | 16 ml | Cl | ClH
solvent | triethylamine | 33 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.04 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.01 g | [Cu]I
catalyst | triphenylphosphine | 0.06 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 1,4-bis(4'-propylphenylethynyl)-2,5-difluorobenzene | 2.6 g | C(CC)C1=CC=C(C=C1)C#CC1=C(C=C(C(=C1)F)C#CC1=CC=C(C=C1)CCC)F | C28H24F2
